US07087599B2
A solution of 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (162 mg, 0.52 mmol) in anhydrous THF (2.5 mL) was cooled in an ice bath and stirred under a nitrogen atmosphere while 0.4M LDA in THF (1.55 mL, 0.62 mmol) was added by syringe. After stirring at 0° C. for 30 minutes, the solution was cooled to −78° C. (dry ice-acetone bath) and treated with iodomethane (0.162 mL, 2.6 mmol). The resulting mixture was allowed to slowly warm to room temperature, then stirred at room temperature overnight. The mixture was diluted with EtOAc (60 mL) and shaken with saturated aqueous NH4Cl (40 mL). The aqueous phase was extracted with more EtOAc (20 mL). The combined organics were washed with 5% NaHCO3, water, and brine, dried over MgSO4, filtered, and concentrated under vacuum to a yellow oil. The crude product was purified by preparative layer chromatography (PLC) on a 0.1×20×20 cm silica gel GF plate using 4:1 hexanes-EtOAc as developing solvent. The band at Rf 0.44-0.56 was extracted with EtOAc and the extracts evaporated under vacuum to provide (2SR,9aSR)-9a-butyl-2,4-dimethyl-7-methoxymethoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (111 mg) as an oil.

reactant | 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.52 mmol, 162 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OCOC | C20H26O3
reactant | LDA | 0.4M | [Li+].CC(C)[N-]C(C)C
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | iodomethane | 2.6 mmol, 0.162 mL | IC | CH3I
reactant | NH4Cl | 40 mL | [NH4+].[Cl-]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | THF | 0.62 mmol, 1.55 mL | C1CCOC1 | C4H8O
product | (2SR,9aSR)-9a-butyl-2,4-dimethyl-7-methoxymethoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 111 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)C)=O)C)OCOC | C21H28O3
